US09107916B2
A. 1-(4-methylphenyl)pentane-1,3-dione
To a suspension of NaH (60%, 106 mg, 4.44 mmol) in 2 mL propionic acid ethyl ester was added 1-(4-methylphenyl)ethanone (500 mg, 3.7 mmol) at 0-5° C. The reaction mixture was stirred overnight at rt. Water was added, and the mixture was extracted with EtOAc (3×50 mL). The organic layers were washed with brine, dried over Na2SO4, and concentrated to dryness. The residue was purified by flash column chromatography (PE/EtOAc=10/1) to give the title compound (370 mg, 52%) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ 1.22 (3H, m), 2.45 (5H, m), 6.17 (2H, s), 7.27 (2H, d, J=10 Hz), 7.81 (2H, d, J=11.2 Hz). [M+H] Calc'd for C12H14O2, 191. Found, 191.

reactant | NaH | 4.44 mmol, 106 mg | [H-].[Na+]
reactant | 1-(4-methylphenyl)ethanone | 3.7 mmol, 500 mg | CC1=CC=C(C=C1)C(C)=O | C9H10O
reactant | Water | O | H2O
reactant | propionic acid ethyl ester | 2 mL | C(C)OC(CC)=O | C5H10O2
product | 1-(4-methylphenyl)pentane-1,3-dione | 370 mg, 52% | CC1=CC=C(C=C1)C(CC(CC)=O)=O | C12H14O2
